US06645968B2
N″-cyano-N-[6-(trifluoromethyl)-3-pyridinyl]guanidine
A solution of 5-amino-2-(trifluoromethyl)pyridine and sodium dicyanamide was processed as described in Example 71A to provide the desired product.

reactant | 5-amino-2-(trifluoromethyl)pyridine | NC=1C=CC(=NC1)C(F)(F)F | C6H5F3N2
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-[6-(trifluoromethyl)-3-pyridinyl]guanidine | C(#N)N=C(NC=1C=NC(=CC1)C(F)(F)F)N | C8H6F3N5
